US04101661
(j) 6-[4-[(2-Dimethylaminoethyl)aminosulfonyl]phenyl]-1,2-dihydro-2-oxonicotinyl Chloride Hydrochloride
A suspension of 3.5 g. of 6-[4-[(2-dimethylaminoethyl)aminosulfonyl]phenyl]-1,2-dihydro-2-oxonicotinic acid in 175 ml. of thionyl chloride is stirred at room temperature for 16 hours. The mixture is diluted with 300 ml. of hexane and the precipitate of 6-[4-[(2-dimethylaminoethyl)aminosulfonyl]phenyl]-1,2-dihydro-2-oxonicotinyl chloride hydrochloride is collected by filtration, washed with hexane and dried. The acid chloride is used as such without further purification.

reactant | 6-[4-[(2-dimethylaminoethyl)aminosulfonyl]phenyl]-1,2-dihydro-2-oxonicotinic acid | CN(CCNS(=O)(=O)C1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O)C | C16H19N3O5S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 6-[4-[(2-Dimethylaminoethyl)aminosulfonyl]phenyl]-1,2-dihydro-2-oxonicotinyl Chloride Hydrochloride | Cl.CN(CCNS(=O)(=O)C1=CC=C(C=C1)C=1NC(C(CCl)=CC1)=O)C | InChI=1S/C16H20ClN3O3S.ClH/c1-20(2)10-9-18-24(22,23)14-6-3-12(4-7-14)15-8-5-13(11-17)16(21)19-15;/h3-8,18H,9-11H2,1-2H3,(H,19,21);1H
